US05728907
This compound may be prepared in the following manner. Three moles of 1-bromooctane are slowly added to 3 moles of magnesium turnings in 0.6 liters of anhydrous ethyl ether (nitrogen atmosphere). One mole of diethyl carbonate in 0.151 anhydrous ethyl ether is slowly added to the mixture. The mixture is stirred for one hour at 30° C., then the mixture is slowly poured into 1.8 liters of a cold 10% HCl solution. The organic layer is dried with magnesium sulfate and the ethyl ether is evaporated off to give tri-n-octylcarbinol. One mole of tri-n-octylcarbinol is added to a mixture of 0.2 liters of methylene chloride and 0.32 moles calcium chloride. Approximately 1.5 moles of HCl gas is slowly bubbled through the solution. The product mixture is then washed with 1 liter of a 10% sodium carbonate solution. The organic layer is dried with magnesium sulfate and the methylene chloride is evaporated off. One mole of tri-n-octylmethylchloride is added to 0.75 liters of methylene chloride and the solution is blanketed with nitrogen and is cooled to 0° C. 0.33 moles of trimethylaluminum is then added and the mixture is allowed to warm to room temperature. The mixture is slowly quenched with 50 ml of water followed by washing with 1 liter of a 10% HCl solution. The organic layer is dried with magnesium sulfate and the solvent is evaporated to give tri-n-octylmethylmethane.

reactant | 1-bromooctane | Three moles | BrCCCCCCCC | C8H17Br
reactant | magnesium | 3 moles | [Mg] | Mg
reactant | diethyl carbonate | One mole | C(OCC)(OCC)=O | C5H10O3
reactant | HCl | Cl | ClH
solvent | ethyl ether | 0.6 liters | C(C)OCC | C4H10O
product | tri-n-octylcarbinol | C(CCCCCCC)C(O)(CCCCCCCC)CCCCCCCC | C25H52O
